US05654326
Using the procedure described in Example 1, Part E, 1-[(2,6-dichlorophenyl)methyl]-4-hydroxy-2-methyl-1H-indole (862 mg, 2.8 mmol) was treated with 112 mg (2.8 mmol) of 60% NaH/mineral oil and then 0.27 mL (2.8 mmol) of methyl bromoacetate. The product was purified by chromatography over silica gel eluting with 20% EtOAc/hexane, to give 411 mg (39% yield) of [[1-[(2,6-dichlorophenyl)methyl]-2-methyl-1H-indol-4-yl]oxy]acetic acid methyl ester, mp, 168°-169° C.

reactant | 1-[(2,6-dichlorophenyl)methyl]-4-hydroxy-2-methyl-1H-indole | 2.8 mmol, 862 mg | ClC1=C(C(=CC=C1)Cl)CN1C(=CC2=C(C=CC=C12)O)C | C16H13Cl2NO
reactant | NaH | 2.8 mmol, 112 mg | [H-].[Na+]
reactant | methyl bromoacetate | 2.8 mmol, 0.27 mL | BrCC(=O)OC | C3H5BrO2
product | [[1-[(2,6-dichlorophenyl)methyl]-2-methyl-1H-indol-4-yl]oxy]acetic acid methyl ester | 411 mg, 39% yield | COC(COC1=C2C=C(N(C2=CC=C1)CC1=C(C=CC=C1Cl)Cl)C)=O | C19H17Cl2NO3
